US09102621B2
Methyl 3-isopropylimidazo[1,5-a]pyridine-6-carboxylate
To a suspension of methyl 6-[(isobutyrylamino)methyl]nicotinate (Preparation 26, 935 mg, 3.96 mmol) in toluene (10 mL) was added phosphoryl chloride (3.03 g, 1.84 mL, 19.8 mmol) and the mixture refluxed under nitrogen for 3 hours. The resulting dark solution was cooled at room temperature and concentrated in vacuo to give an oil. The oil was then dissolved in toluene (10 mL) and concentrated in vacuo again. The resulting residue was partitioned between EtOAc (20 mL) and saturated aqueous sodium hydrogen carbonate solution (2×5 mL). The organic layer was washed with brine (5 mL), dried over magnesium sulfate, filtered and evaporated to yield a dark oil, which was dissolved in methanol (10 mL), treated with charcoal and refluxed for 5 minutes. The mixture was filtered through Celite and the filtrate concentrated in vacuo to yield the title compound as a pale yellow oil (830 mg, 82%), which was used directly in the next stage without further purification.

reactant | methyl 6-[(isobutyrylamino)methyl]nicotinate | 3.96 mmol, 935 mg | C(C(C)C)(=O)NCC1=NC=C(C(=O)OC)C=C1 | C12H16N2O3
reactant | phosphoryl chloride | 19.8 mmol, 1.84 mL, 3.03 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | charcoal | C | CH4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 3-isopropylimidazo[1,5-a]pyridine-6-carboxylate | 830 mg, 82% | C(C)(C)C1=NC=C2N1C=C(C=C2)C(=O)OC | C12H14N2O2
